US08247429B2
N-[2-(2-methyl-8,9-dihydro-7H-cyclopenta[c]pyrazolo[1,5-a]pyridin-9-yl)ethyl]acetamide
To a mixture of 2-(2-methyl-8,9-dihydro-7H-cyclopenta[c]pyrazolo[1,5-a]pyridin-9-yl)ethanamine hydrochloride obtained in Reference Example 43 and triethylamine (1.36 mL, 9.76 mmol) in tetrahydrofuran (5 mL) was added acetic anhydride (115 μL, 1.22 mmol) under ice-cooling, and the mixture was stirred for 15 min. The reaction solution was diluted with saturated aqueous sodium hydrogen carbonate solution, and the mixture was extracted with ethyl acetate. The extract was dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane=50/50→100/0) and recrystallization (ethyl acetate/diisopropyl ether) to give the title compound (56.6 mg, total yield from Reference Example 43, 45%).

reactant | 2-(2-methyl-8,9-dihydro-7H-cyclopenta[c]pyrazolo[1,5-a]pyridin-9-yl)ethanamine hydrochloride | Cl.CC1=NN2C(C3=C(C=C2)CCC3CCN)=C1
reactant | triethylamine | 9.76 mmol, 1.36 mL | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 1.22 mmol, 115 μL | C(C)(=O)OC(C)=O | C4H6O3
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | N-[2-(2-methyl-8,9-dihydro-7H-cyclopenta[c]pyrazolo[1,5-a]pyridin-9-yl)ethyl]acetamide | 56.6 mg, 45% | CC1=NN2C(C3=C(C=C2)CCC3CCNC(C)=O)=C1 | C15H19N3O
